US07585886B2
A 6 ml THF solution of 300 mg of tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[4-phenylpyrrolidin-3-yl]methyl}carbamate was mixed with 0.29 ml of triethylamine and 0.13 ml of pivaloyl chloride and stirred at room temperature for 3 hours. After completion of the reaction, 20 ml of water was added thereto and THF was evaporated. This was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate, and then the organic layer was concentrated. The thus obtained residue was mixed with 10 ml of 4 M hydrogen chloride/ethyl acetate and stirred at 50° C. for 4 hours. After completion of the reaction, the solvent was evaporated, and the thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol) and crystallized (diethyl ether-ethyl acetate) to obtain 92 mg of (1R)—N-{[1-(2,2-dimethylpropanoyl)-4-phenylpyrrolidin-3-yl]methyl}-1-(1-naphthyl)ethanamine hydrochloride as colorless crystals.

reactant | THF | 6 ml | C1CCOC1 | C4H8O
reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[4-phenylpyrrolidin-3-yl]methyl}carbamate | 300 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)CC1CNCC1C1=CC=CC=C1 | C28H34N2O2
reactant | triethylamine | 0.29 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.13 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | water | 20 ml | O | H2O
product | (1R)—N-{[1-(2,2-dimethylpropanoyl)-4-phenylpyrrolidin-3-yl]methyl}-1-(1-naphthyl)ethanamine hydrochloride | 92 mg | Cl.CC(C(=O)N1CC(C(C1)C1=CC=CC=C1)CN[C@H](C)C1=CC=CC2=CC=CC=C12)(C)C | InChI=1S/C28H34N2O.ClH/c1-20(24-16-10-14-21-13-8-9-15-25(21)24)29-17-23-18-30(27(31)28(2,3)4)19-26(23)22-11-6-5-7-12-22;/h5-16,20,23,26,29H,17-19H2,1-4H3;1H/t20-,23?,26?;/m1./s1
